US06812224B2
[2-(N-hydroxyamino)-ethoxy]methyl-phosphonic Acid
With reference to K -L. Yu, J. J.Bronson, H.Yang, A.Patick, M.Alam, V.Brankovan, R.Datema, M. J. M.Hitchcock, J. C.Martin, J. Med. Chem. 1992, 35, 2958-2969 0.5 mol [2-(N-hydroxyamino)-ethoxy]methylphosphonic acid diethylester and 1 mol 2,4,6-collidine in 5 ml of absolute methylenechloride are stirred under argon for one hour at a temperature of 0° C. After allowing to stand for 16 hours at room temperature the-solution is concentrated in vacuum, taken up in watery acetone and stirred for 14 hours. Subsequently it is taken up in 1 n NaOH and heated to 100° C. for 2 h. After cooling-off it is concentrated and the raw product purified by chromatography.

reactant | [2-(N-hydroxyamino)-ethoxy]methylphosphonic acid diethylester | C(C)OP(OCC)(=O)COCCNO | C7H18NO5P
reactant | 2,4,6-collidine | 1 mol | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | methylenechloride | 5 ml | C(Cl)Cl | CH2Cl2
product | [2-(N-hydroxyamino)-ethoxy]methyl-phosphonic Acid | ONCCOCP(O)(O)=O | C3H10NO5P
